US06919337B2
Sodium borohydride (1.12 g, 29.6 mmol) is added portionwise to a cooled (0° C.) solution of 6-bromoisoquinoline[J Chem Soc Perkin Trans 2, 1998, 437] (1.544 g, 7.42 mmol) in acetic acid (10 ml) and acetic anhydride (3 ml). After heating at 60° C. for 4 hours, the mixture is cooled, evaporated and diluted with water. After adjustment to pH10 with potassium carbonate and extraction with ethyl acetate, the combined organic phases are washed twice with 0.5N HCl and brine, then dried over sodium sulphate. Evaporation affords 1-(6-bromo-1H-isoquinolin-2-yl)-ethanone, MH+ 253. Glyoxylic acid (0.812 g, 8.80 mmol) is added to mixture of 1-(6-bromo-1H-isoquinolin-2-yl)-ethanone (1.50 g, 5.90 mmol) in 6N HCl (20 ml). The reaction is heated at 100° C. for 2 hours, cooled to RT and washed with ethyl acetate. After evaporation, the residue is taken into methanol (20 ml), concentrated sulphuric acid (10 drops) is added and the mixture heated at reflux for 14 hours. After partial evaporation of the solvent, the resultant solid is collected by filtration, washed with methanol and dried to afford (6-bromo-isoquinolin4-yl)-acetic acid methyl ester hydrochloride, MH+ 281. Lithium hydroxide hydrate (8.5 mg, 0.20 mmol) is added to a cooled (0° C.) solution of (6-bromo-isoquinolin-4-yl)-acetic acid methyl ester (50 mg, 0.18 mmol) in 3:1 THF-water (3 ml). After 1 hour the solvent is evaporated to afford (6-bromo-isoquinolin-4-yl)-acetic acid lithium salt, MH+ 266.

reactant | Sodium borohydride | 29.6 mmol, 1.12 g | [BH4-].[Na+]
reactant | 6-bromoisoquinoline | 7.42 mmol, 1.544 g | BrC=1C=C2C=CN=CC2=CC1 | C9H6BrN
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(6-bromo-1H-isoquinolin-2-yl)-ethanone | BrC=1C=C2C=CN(CC2=CC1)C(C)=O | C11H10BrNO
